US06727264B1
7-METHYL-1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 7-methyl-1H-indole and iodobenzene: ESMS m/e: 208.1 (M+H)+.

reactant | 7-methyl-1H-indole | CC=1C=CC=C2C=CNC12 | C9H9N
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 7-METHYL-1-PHENYL-1H-INDOLE | CC=1C=CC=C2C=CN(C12)C1=CC=CC=C1 | C15H13N
